.subckt CMOS_Inv VDD Vin Vout

xM1  Vout Vin VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.5
xM2  Vout Vin GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.5

.ends CMOS_Inv
