.include CMOS_Inv.sub
.include TX_Gate.sub 

.subckt DFF VDD CLK nCLK D Q nQ

XI1  VDD Net-_XG1-Pad5_ Net-_XG3-Pad2_ CMOS_Inv		
XI3  VDD Net-_XG3-Pad5_ Q CMOS_Inv		
XI4  VDD Q nQ CMOS_Inv		
XI2  VDD Net-_XG3-Pad2_ Net-_XG2-Pad2_ CMOS_Inv		
XG3  VDD Net-_XG3-Pad2_ CLK nCLK Net-_XG3-Pad5_ TX_Gate		
XG4  VDD nQ nCLK CLK Net-_XG3-Pad5_ TX_Gate		
XG2  VDD Net-_XG2-Pad2_ CLK nCLK Net-_XG1-Pad5_ TX_Gate		
XG1  VDD D nCLK CLK Net-_XG1-Pad5_ TX_Gate	

.ends DFF