
.include DFF.sub 
.subckt control_sigs_gen vdd clk b0 b1 b2 out_b0 out_b1 out_b2 out_b0bar out_b1bar out_b2bar

X1  vdd clk vdd GND Y TX_Gate		
X2  vdd clk Net-_X2-Pad3_ CMOS_Inv		
XD3  vdd Y Net-_X2-Pad3_ b0 out_b0 out_b0bar DFF		
XD4  vdd Y Net-_X2-Pad3_ b1 out_b1 out_b1bar DFF		
XD5  vdd Y Net-_X2-Pad3_ b2 out_b2 out_b2bar DFF	

.ends control_signals_gen