* /home/ayush/eSim-Workspace/3stageringosc/3stageringosc.cir

.subckt 3stageringosc gnd v1 out 

xm2  net-_m2-pad1_ out net-_c1-pad1_ net-_m2-pad1_ sky130_fd_pr__pfet_01v8 w=0.96 l=0.24
xm4  net-_m2-pad1_ net-_c1-pad1_ net-_c2-pad1_ net-_m2-pad1_ sky130_fd_pr__pfet_01v8 w=0.96 l=0.24
xm6  net-_m2-pad1_ net-_c2-pad1_ out net-_m2-pad1_ sky130_fd_pr__pfet_01v8 w=0.96 l=0.24
xm1  net-_c1-pad1_ out gnd gnd sky130_fd_pr__nfet_01v8 w=0.48 l=0.24
xm3  net-_c2-pad1_ net-_c1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 w=0.48 l=0.24
xm5  out net-_c2-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 w=0.48 l=0.24
c1  net-_c1-pad1_ gnd 10p
c2  net-_c2-pad1_ gnd 10p
c3  out gnd 10p
v1 net-_m2-pad1_ gnd  dc 2.5V

.ends 3stageringosc
