* C:\Users\mihir\eSim-Workspace\2stgopamp42\2stgopamp42.cir



.subckt 2stgopamp42 vdd vss gnd in1 in2 out1 out2 


* Stage 1 - Differential amplifier


xm1 net-_m1-pad1_ in1 net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__nfet_01v8 l=1 w=1.79

xm2 out1 in2 net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__nfet_01v8 l=1 w=1.79

xm3 net-_m1-pad1_ net-_m1-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=10

xm4 out1 net-_m1-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=10



* Current Mirror

xm5 net-_m1-pad3_ ref vss vss sky130_fd_pr__nfet_01v8 l=1 w=20

xm6 ref ref vss vss sky130_fd_pr__nfet_01v8 l=1 w=10



* Stage 2 - PMOS Common Source Amplifier

xm7 out2 out1 vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=62.83

xm8 out2 ref vss vss sky130_fd_pr__nfet_01v8 l=1 w=62.83

xR1 vdd ref gnd sky130_fd_pr__res_high_po_0p69 l=100

.ends 2stgopamp42
